US04201702
About 10 parts by weight of a fine granular hydrated silica, 30 parts by weight of methallyl chloride and then 10 parts by weight of butadiene are slowly added at ambient temperature and pressure in a closed system while agitating for about 1 hour, thereby producing a small amount of poly (methallyl chloride butadiene) copolymer. Then 50 parts by weight of water, containing 0.5 parts by weight of soap, 0.04 parts by weight of potassium persulfate, 0.02 parts by weight of ferric sulfate are added. The mixture is then agitated for 1 to 12 hours, thereby producing a gray colored emulsion of poly (methallyl chloride butadiene) copolymer. The emulsion is filtered to remove the hydrated silica then coagulated by adding dilute sodium hydrogen sulfate to produce a soft, solid, gray copolymer.

reactant | methallyl chloride | C(C(C)=C)Cl | C4H7Cl
reactant | butadiene | C=CC=C | C4H6
product | methallyl chloride butadiene | C=CC=C.C(C(C)=C)Cl | InChI=1S/C4H7Cl.C4H6/c1-4(2)3-5;1-3-4-2/h1,3H2,2H3;3-4H,1-2H2
